US04737513
At 0° C., 1.95 g of lithium aluminium hydride were introduced in small portions into a solution of 12.6 g of ethyl 1-(2-propynyl)-3-trifluoromethyl-1H-pyrrole-4-carboxylate in 65 ml of tetrahydrofuran with stirring for 2 hours at 20° C. 10 ml of ethyl acetate were added to eliminate possible excess of hydride and the reaction mixture was poured into a saturated solution of sodium-potassium double tartrate. After extraction with ethyl acetate, the extracts were concentrated to dryness by distillation under reduced pressure. The residue was chromatographed over silica and eluted with a mixture of hexane and ethyl acetate (7-3) to obtain 5.7 g of 1-(2-propynyl)-3-trifluoromethyl-1H-pyrrole-4-methanol melting at 45° C.

reactant | lithium aluminium hydride | 1.95 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-(2-propynyl)-3-trifluoromethyl-1H-pyrrole-4-carboxylate | 12.6 g | C(C#C)N1C=C(C(=C1)C(=O)OCC)C(F)(F)F | C11H10F3NO2
reactant | hydride | [H-]
reactant | sodium-potassium | [K].[Na]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-propynyl)-3-trifluoromethyl-1H-pyrrole-4-methanol | 5.7 g | C(C#C)N1C=C(C(=C1)CO)C(F)(F)F | C9H8F3NO
